US06423689B1
[S-(R*,R*)]-2-{2-Amino-4-methyl-pentanoylamino}-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester
A solution of the product from Example AH (3-(4-benzyloxy-phenyl)-2-{2-[(9H-fluoren-9-ylmethyl)-amino]-4-methyl-pentanoylamino}-propionic acid tert-butyl ester) (12.2 g, 20.0 mmol) in 500 mL of tetrahydrofuran was treated with piperidine (80 mL). The resulting solution was stirred at room temperature for 48 hours. The reaction mixture was concentrated and the residue purified by chromatography (silica gel, gradient elution EtOAc—15% EtOH/EtOAc). The resulting yellow solid was broken up in heptane to give the title compound as a white solid (6.77 g, 77%), mp=56-60° C.

reactant | AH | 20.0 mmol, 12.2 g | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)NCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O | C40H46N2O4
reactant | piperidine | 80 mL | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 2-{2-Amino-4-methyl-pentanoylamino}-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester | 6.77 g, 77% | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)N)=O)=O | C26H36N2O4
